* Created by KLayout
*** My special header ***

* cell 555MOS
* pin dischg
* pin out
* pin rst
* pin th
* pin trig
* pin vctrl
* pin vdd
* pin vss
.SUBCKT 555MOS dischg out rst th trig vctrl vdd vss
* device instance $1 r0 *1 112.9,3.9 PMOS
XM$1 \$81 \$83 \$139 vdd PMOS L=2u W=80u AS=140.8p AD=140.8p PS=113.6u PD=113.6u
* device instance $6 r0 *1 -79,46.9 PMOS
XM$6 \$60 \$135 vdd vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $11 r0 *1 -15,46.9 PMOS
XM$11 \$135 \$135 vdd vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $16 r0 *1 113,46.9 PMOS
XM$16 \$137 \$137 vdd vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $21 r0 *1 49,46.9 PMOS
XM$21 \$24 \$137 vdd vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $26 r0 *1 480,-70.1 PMOS
XM$26 \$18 rst \$84 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $31 r0 *1 148.8,-42.5 PMOS
XM$31 \$6 \$26 \$81 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $36 r0 *1 83.8,-42.5 PMOS
XM$36 \$7 trig \$81 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $41 r0 *1 385.6,44.6 PMOS
XM$41 \$29 \$83 vdd vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $46 r0 *1 525.4,-29.5 PMOS
XM$46 vss \$66 out vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $51 r0 *1 320.6,44.6 PMOS
XM$51 \$83 \$83 vdd vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $56 r0 *1 535.2,-65.7 NMOS
XM$56 dischg \$18 vss vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $61 r0 *1 526.2,46.3 NMOS
XM$61 out \$141 vdd vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $66 r0 *1 620.4,-19.2 NMOS
XM$66 out \$18 vss vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $71 r0 *1 -77.8,-39.7 NMOS
XM$71 \$22 \$22 vss vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $76 r0 *1 -77.8,5.8 NMOS
XM$76 vss \$22 \$134 vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $81 r0 *1 149.1,-78.2 NMOS
XM$81 \$6 \$6 vss vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $86 r0 *1 85.1,-78.2 NMOS
XM$86 \$7 \$6 vss vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $91 r0 *1 320.1,-69.6 NMOS
XM$91 \$9 \$7 vss vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $96 r0 *1 322.2,-35.6 NMOS
XM$96 \$9 \$60 \$84 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $101 r0 *1 372.4,-69.6 NMOS
XM$101 \$11 \$9 vss vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $106 r0 *1 376,-35.6 NMOS
XM$106 \$11 \$84 \$84 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $111 r0 *1 428,-69.6 NMOS
XM$111 \$29 \$11 vss vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $116 r0 *1 452.9,9 NMOS
XM$116 \$141 \$66 vdd vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $121 r0 *1 452.9,-22.5 NMOS
XM$121 \$18 \$29 \$66 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $126 r0 *1 26.1,-45.7 NMOS
XM$126 \$24 \$24 vss vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $131 r0 *1 -29.6,-45.7 NMOS
XM$131 \$60 \$24 vss vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $136 r0 *1 -14.9,8.6 NMOS
XM$136 \$135 th \$134 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $141 r0 *1 49.1,8.6 NMOS
XM$141 \$137 vctrl \$134 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $146 r0 *1 184.7,40 F_RR
XR$146 vdd \$139 vdd F_RR R=2.2 L=13.2u W=6u A=79.2p P=38.4u m=1
* device instance $147 r0 *1 395.9,1.3 F_RR
XR$147 \$9 \$29 vdd F_RR R=5.9 L=23.6u W=4u A=94.4p P=55.2u m=1
* device instance $148 r0 *1 624,-74.3 F_RR
XR$148 \$18 vss vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $149 r0 *1 460.7,42.7 F_RR
XR$149 \$66 vdd vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $150 r0 *1 331,1.3 F_RR
XR$150 \$84 \$83 vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $151 r0 *1 534.8,13.2 F_RR
XR$151 \$141 out vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $152 r0 *1 256.2,-55.4 F_RR
XR$152 vss \$26 vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $153 r90 *1 -123.8,19.8 F_RR
XR$153 \$22 vdd vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $154 r0 *1 256.2,42.6 F_RR
XR$154 vctrl vdd vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $155 r0 *1 256.2,-6.4 F_RR
XR$155 vctrl \$26 vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
.ENDS 555MOS
