* Created by KLayout
*** My special header ***

* cell 555MOS
* pin dischg
* pin out
* pin rst
* pin th
* pin trig
* pin vctrl
* pin vdd
* pin vss
.SUBCKT 555MOS dischg out rst th trig vctrl vdd vss
* device instance $1 r0 *1 112.9,3.9 PMOS
XM$1 \$126 \$79 \$77 vdd PMOS L=2u W=80u AS=140.8p AD=140.8p PS=113.6u PD=113.6u
* device instance $6 r0 *1 -79,46.9 PMOS
XM$6 vdd \$122 \$57 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $11 r0 *1 49,46.9 PMOS
XM$11 vdd \$124 \$24 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $16 r0 *1 113,46.9 PMOS
XM$16 vdd \$124 \$124 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $21 r0 *1 -15,46.9 PMOS
XM$21 vdd \$122 \$122 vdd PMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $26 r0 *1 480,-70.1 PMOS
XM$26 \$81 rst \$20 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $31 r0 *1 148.8,-42.5 PMOS
XM$31 \$77 \$26 \$9 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $36 r0 *1 83.8,-42.5 PMOS
XM$36 \$77 trig \$10 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $41 r0 *1 525.4,-29.5 PMOS
XM$41 out \$63 vss vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $46 r0 *1 385.6,44.6 PMOS
XM$46 vdd \$79 \$30 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $51 r0 *1 320.6,44.6 PMOS
XM$51 vdd \$79 \$79 vdd PMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $56 r0 *1 535.2,-65.7 NMOS
XM$56 vss \$20 dischg vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $61 r0 *1 526.2,46.3 NMOS
XM$61 vdd \$129 out vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $66 r0 *1 620.4,-19.2 NMOS
XM$66 vss \$20 out vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $71 r0 *1 -77.8,-39.7 NMOS
XM$71 vss \$22 \$22 vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $76 r0 *1 -77.8,5.8 NMOS
XM$76 \$121 \$22 vss vss NMOS L=2u W=40u AS=70.4p AD=70.4p PS=65.6u PD=65.6u
* device instance $81 r0 *1 149.1,-78.2 NMOS
XM$81 vss \$9 \$9 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $86 r0 *1 85.1,-78.2 NMOS
XM$86 vss \$9 \$10 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $91 r0 *1 320.1,-69.6 NMOS
XM$91 vss \$10 \$13 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $96 r0 *1 322.2,-35.6 NMOS
XM$96 \$81 \$57 \$13 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $101 r0 *1 372.4,-69.6 NMOS
XM$101 vss \$13 \$14 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $106 r0 *1 376,-35.6 NMOS
XM$106 \$81 \$81 \$14 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $111 r0 *1 428,-69.6 NMOS
XM$111 vss \$14 \$30 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $116 r0 *1 452.9,9 NMOS
XM$116 vdd \$63 \$129 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $121 r0 *1 452.9,-22.5 NMOS
XM$121 \$63 \$30 \$20 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $126 r0 *1 26.1,-45.7 NMOS
XM$126 vss \$24 \$24 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $131 r0 *1 -29.6,-45.7 NMOS
XM$131 vss \$24 \$57 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $136 r0 *1 -14.9,8.6 NMOS
XM$136 \$121 th \$122 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $141 r0 *1 49.1,8.6 NMOS
XM$141 \$121 vctrl \$124 vss NMOS L=2u W=20u AS=35.2p AD=35.2p PS=41.6u PD=41.6u
* device instance $146 r0 *1 184.7,40 F_RR
XR$146 vdd \$126 vdd F_RR R=2.2 L=13.2u W=6u A=79.2p P=38.4u m=1
* device instance $147 r0 *1 395.9,1.3 F_RR
XR$147 \$13 \$30 vdd F_RR R=5.875 L=23.5u W=4u A=94p P=55u m=1
* device instance $148 r0 *1 624,-74.3 F_RR
XR$148 \$20 vss vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $149 r0 *1 460.7,42.7 F_RR
XR$149 \$63 vdd vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $150 r0 *1 534.8,13.2 F_RR
XR$150 \$129 out vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $151 r0 *1 331,1.3 F_RR
XR$151 \$81 \$79 vdd F_RR R=6.15 L=24.6u W=4u A=98.4p P=57.2u m=1
* device instance $152 r0 *1 256.2,-55.4 F_RR
XR$152 vss \$26 vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $153 r90 *1 -130.5,19.8 F_RR
XR$153 \$22 vdd vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $154 r0 *1 256.2,42.6 F_RR
XR$154 vctrl vdd vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
* device instance $155 r0 *1 256.2,-6.4 F_RR
XR$155 vctrl \$26 vdd F_RR R=10.5 L=42u W=4u A=168p P=92u m=1
.ENDS 555MOS
